US07691877B2
2,4-Dichloro-5,6-Dimethyl-3-nitro-pyridine
5,6-Dimethyl-3-nitro-pyridin-2,4-diol (3.9 g, 21 mmol) was dissolved in acetonitrile (150 mL) and firstly tetraethylammonium chloride (7.1 g, 42 mmol) and then phosphorus oxychloride (19.9 mL, 210 mmol) were added and the whole heated at 70C for 16 h. The reaction mixture was poured into crushed ice and extracted with DCM (2×30 mL). The combined extracts were dried over MgSO4, filtered and concentrated in vacuo to afford a brown solid. This solid was taken up in 2 mL DCM and filtered through a short plug of silica gel eluting with 2:1 pentane:EtOAc. The filtrate was then evaporated to afford the title compound as a light brown solid (3.5 g, 75%).

reactant | 5,6-Dimethyl-3-nitro-pyridin-2,4-diol | 21 mmol, 3.9 g | CC=1C(=C(C(=NC1C)O)[N+](=O)[O-])O | C7H8N2O4
reactant | phosphorus oxychloride | 210 mmol, 19.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
catalyst | tetraethylammonium chloride | 42 mmol, 7.1 g | [Cl-].C(C)[N+](CC)(CC)CC
product | 2,4-Dichloro-5,6-Dimethyl-3-nitro-pyridine | 3.5 g, 75% | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
